US03994858
a. 3-(4-Chlorobutyl)-5,5-dimethyl-hydantoin
A mixture of 538 g of 5,5-dimethyl-hydantoin (4.2 mols), 290 g of anhydrous potassium carbonate (2.1 mols) and 2,130 g of 1,4-dichlorobutane (16.77 mols) is reacted for 8 hours at 138° to 141° C internal temperature (external temperature 200° C), as described under Example 1 (a). Working up is carried out according to Example 1 (a), and 830.9 g of a brown, viscous crude product (90.5% of theory) are obtained, and are purified by vacuum distillation (boiling point0.2 : 151°-153° C) and subsequent recrystallisation from diethyl ether. The pure product melts at 54.4° to 56.3° C.

reactant | 5,5-dimethyl-hydantoin | 4.2 mols, 538 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 2.1 mols, 290 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dichlorobutane | 16.77 mols, 2,130 g | ClCCCCCl | C4H8Cl2
product | 3-(4-Chlorobutyl)-5,5-dimethyl-hydantoin | ClCCCCN1C(NC(C1=O)(C)C)=O | C9H15ClN2O2
